US04069250
5-Amino-2,4,6-triiodo-N-[tris(hydroxymethyl)methyl]isophthalamic acid (50.0 g., 0.076 mol.) was added in one portion to a stirred solution of sulfuric acid (0.36 ml.) in acetic anhydride (136.0 ml.). The temperature of the reaction mixture rose briefly to 82° and dissolution was effected. As the reaction mixture cooled to room temperature, the product began to precipitate at 47° and the mixture was diluted with toluene (100 ml.). The mixture was stirred at room temperature for 1 hr., and filtered. The filter cake was washed with toluene (50 ml.), dried, dissolved in hot methanol (300 ml.), and treated with charcoal (6 g.). After removal of the charcoal, the product precipitated from the cold station and was collected and dried (70° ) to give white crystalline 5-acetamido-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]-isophthalamic acid (38.8 g.) m.p. 248-251 (dec., uncorr.). (Yield, 62%). This material was pure by TLC analysis (benzene, 2-butanone, 88% formic acid; 60:25:20) and its structure was confirmed by IR and NMR. Anal. Calcd. for C20H21I3N2O10 : C, 28.94; H, 2.55; N.E., 830.12. Found: C, 29.02; H, 2.70; N.E., 825.6.

reactant | 5-Amino-2,4,6-triiodo-N-[tris(hydroxymethyl)methyl]isophthalamic acid | 0.076 mol, 50.0 g | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(CO)(CO)CO)I | C12H13I3N2O6
reactant | sulfuric acid | 0.36 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 136.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetamido-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]-isophthalamic acid | 38.8 g | C(C)(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(COC(C)=O)(COC(C)=O)COC(C)=O)I | C20H21I3N2O10
